US05837704
5,11-Dihydro-5,11-dimethyl-2-(2-pyrrolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound (mp 158°-160° C.) was prepared from 2-chloro-5,11-dihydro-5,11-dimethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and (t-butoxycarbonyl)pyrrole in a manner analogous to that described in Example 23.

reactant | 2-chloro-5,11-dihydro-5,11-dimethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)C)N=CC=C3)=O)C | C13H11ClN4O
reactant | (t-butoxycarbonyl)pyrrole | C(C)(C)(C)OC(=O)C=1NC=CC1 | C9H13NO2
product | 5,11-Dihydro-5,11-dimethyl-2-(2-pyrrolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | CN1C2=C(N(C3=C(C1=O)C=CC=N3)C)N=C(C=C2)C=2NC=CC2 | C17H15N5O
